US07888364B2
500 mg of methyl 4-(methylamino)benzoate was cooled to 0° C. in DCM with 270 μL of Pyridine before 260 μL Methanesulfonyl Chloride was added dropwise. Reaction was allowed to warm to room temperature and stir overnight. Solvent was concentrated and the crude material was dissolved in Ethyl Acetate and extracted with 0.1N NaOH solution twice. Crude material was dried over Magnesium Sulfate, filtered and concentrated to give methyl 4-(N-methylmethylsulfonamido)benzoate. 698 mg of methyl 4-(N-methylmethylsulfonamido)benzoate was hydrolyzed via Procedure M to give 4-(N-methylmethylsulfonamido)benzoic acid. 100 mg of 4-chloro-3-(pyridin-2-yl)aniline was coupled to 4-(N-methylmethylsulfonamido)benzoic acid via Procedure G. The crude product was purified by reverse phase HPLC to yield pure N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-(N-methylmethylsulfonamido)benzamide. MS (Q1) 416.3 (M)+.

reactant | methyl 4-(methylamino)benzoate | 500 mg | CNC1=CC=C(C(=O)OC)C=C1 | C9H11NO2
reactant | Pyridine | 270 μL | N1=CC=CC=C1 | C5H5N
reactant | Methanesulfonyl Chloride | 260 μL | CS(=O)(=O)Cl | CH3ClO2S
solvent | DCM | C(Cl)Cl | CH2Cl2
product | methyl 4-(N-methylmethylsulfonamido)benzoate | CN(S(=O)(=O)C)C1=CC=C(C(=O)OC)C=C1 | C10H13NO4S
